US09102671B2
To a solution of (R)-tert-butyl 4,4-difluoro-2-(5-fluoro-2-(isopropylcarbamoyl)phenyl)pyrrolidine-1-carboxylate (I-50) (203 mg, 0.525 mmol) in DCM (0.4 mL) was added TFA (1 mL). After stirring for 2 hours the mixture was concentrated to dryness, diluted with DCM, washed with saturated aqueous NaHCO3 and brine, dried over sodium sulfate and concentrated to dryness to give (R)-2-(4,4-difluoropyrrolidin-2-yl)-4-fluoro-N-isopropylbenzamide (I-51) as a pale brown solid. MS m/z 287.1 (M+H)+. 1-51 was also isolated as a racemic mixture using un-resolved 1-45A and 1-45B from Method A in the above sequence.

reactant | (R)-tert-butyl 4,4-difluoro-2-(5-fluoro-2-(isopropylcarbamoyl)phenyl)pyrrolidine-1-carboxylate | 0.525 mmol, 203 mg | FC1(C[C@@H](N(C1)C(=O)OC(C)(C)C)C1=C(C=CC(=C1)F)C(NC(C)C)=O)F | C19H25F3N2O3
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 0.4 mL | C(Cl)Cl | CH2Cl2
product | (R)-2-(4,4-difluoropyrrolidin-2-yl)-4-fluoro-N-isopropylbenzamide | FC1(C[C@@H](NC1)C1=C(C(=O)NC(C)C)C=CC(=C1)F)F | C14H17F3N2O
